US08623818B2
Into a 1 L round bottomed flask containing THF (335 mL) was added 6-methoxynaphthalen-2-ylboronic acid (20.15 g, 99.7 mmol, 1.2 eq), Pd(OAc)2 (563 mg, 2.51 mmol, 0.03 eq), tri-o-tolylphosphine (2.3 g, 7.56 mmol, 0.09 eq), K3PO4 (89 g, 419 mmol, 5 eq), and ethylbromoacetate (9.2 mL, 82.6 mmol, 1 eq). The resulting mixture was stirred for 24 h at room temperature. Water and EtOAc were added to the reaction and the mixture was stirred for 1 h. The layers were separated and both were saved. The aqueous layer was extracted with EtOAc. The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate, filtered, and evaporated to afford a crude material, which was subjected to silica gel chromatography (gradient elution 0% to 20% EtOAc in hexanes) to afford ethyl 2-(6-methoxynaphthalen-2-yl)acetate (15.4 g, 76%) as a white, crystalline solid.

reactant | 6-methoxynaphthalen-2-ylboronic acid | 99.7 mmol, 20.15 g, 1.2 eq | COC=1C=C2C=CC(=CC2=CC1)B(O)O | C11H11BO3
reactant | tri-o-tolylphosphine | 7.56 mmol, 2.3 g, 0.09 eq | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | K3PO4 | 419 mmol, 89 g, 5 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | ethylbromoacetate | 82.6 mmol, 9.2 mL, 1 eq | C(C)OC(CBr)=O | C4H7BrO2
catalyst | Pd(OAc)2 | 2.51 mmol, 563 mg, 0.03 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
solvent | THF | 335 mL | C1CCOC1 | C4H8O
product | ethyl 2-(6-methoxynaphthalen-2-yl)acetate | 15.4 g, 76% | COC=1C=C2C=CC(=CC2=CC1)CC(=O)OCC | C15H16O3
